US04656179
Preparation of 1-[bis(hydroxymethyl)-methyl]-6,7-dihydroxy-3,4-dihydroisoquinoline hydrobromide
0.01 mole (2.65 g) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline is boiled with 10 ml of a 46% hydrogen bromide solution for 4 hours. The mixture is evaporated and the residue is triturated with acetone to yield the aimed compound.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-3,4-dihydroisoquinoline | 0.01 mole, 2.65 g | OCC(C1=NCCC2=CC(=C(C=C12)OC)OC)CO | C14H19NO4
reactant | hydrogen bromide | Br | BrH
product | 1-[bis(hydroxymethyl)-methyl]-6,7-dihydroxy-3,4-dihydroisoquinoline hydrobromide | Yield: 82% | Br.OCC(C1=NCCC2=CC(=C(C=C12)O)O)CO | InChI=1S/C12H15NO4.BrH/c14-5-8(6-15)12-9-4-11(17)10(16)3-7(9)1-2-13-12;/h3-4,8,14-17H,1-2,5-6H2;1H
